US04833169
10.5 g (0.1 mol) of triethylamine and 5.84 g (0.11 mol) of acrylonitrile are added to 30.16 g (0.1 mol) of 3-(5-methoxybenzocyclobuten-1-ylmethylamino)-propionic acid ethyl ester in 250 ml of ethanol and the whole is stirred at room temperature for 15 hours. The reaction mixture is then concentrated under a water-jet vacuum, and the residue is taken up in diethyl ether and washed neutral with ice-water. The ethereal solution is dried over potassium carbonate, filtered and concentrated by evaporation; 3-{N-(2-cyanoethyl)-N-[(5-methoxybenzocyclobuten-1-yl)methyl]amino} propionic acid ethyl ester is obtained in the form of a yellow oil.

reactant | triethylamine | 0.1 mol, 10.5 g | C(C)N(CC)CC | C6H15N
reactant | acrylonitrile | 0.11 mol, 5.84 g | C(C=C)#N | C3H3N
reactant | 3-(5-methoxybenzocyclobuten-1-ylmethylamino)-propionic acid ethyl ester | 0.1 mol, 30.16 g | C(C)OC(CCNCC1=CC2=C1C=C(C=C2)OC)=O | C15H19NO3
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-{N-(2-cyanoethyl)-N-[(5-methoxybenzocyclobuten-1-yl)methyl]amino} propionic acid ethyl ester | C(C)OC(CCN(CC1=CC2=C1C=C(C=C2)OC)CCC#N)=O | C18H22N2O3
